US06133271
With the procedure of Example 1, the reaction of 3-nitrobenzylamine with 4-chloro-2-(isoxazol-5-yl)-6-methyl-thieno-[2,3-d]-pyrimidine yields 2-(isoxazol-5-yl)-4-(3-nitrobenzylamino)-6-methyl-thieno-[2,3-d]-pyrimidine.

reactant | 3-nitrobenzylamine | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
reactant | 4-chloro-2-(isoxazol-5-yl)-6-methyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=CC=NO1)SC(=C2)C | C10H6ClN3OS
product | 2-(isoxazol-5-yl)-4-(3-nitrobenzylamino)-6-methyl-thieno-[2,3-d]-pyrimidine | O1N=CC=C1C=1N=C(C2=C(N1)SC(=C2)C)NCC2=CC(=CC=C2)[N+](=O)[O-] | C17H13N5O3S
